US07423159B2
A mixture of 1-(4-nitrobenzyl)-1H-indazole (9.25 g), 10% palladium carbon (1 g), ethanol (100 ml) and tetrahydrofuran (100 ml) was stirred under a hydrogen atmosphere at room temperature for 4 hrs. Palladium carbon was removed from the reaction mixture by filtration, and the filtrate was concentrated. Recrystallization of the residue from acetone-hexane gave 4-(1H-indazol-1-ylmethyl)aniline (6.77 g, 83%) as colorless prism crystals. melting point: 110-111° C.

reactant | 1-(4-nitrobenzyl)-1H-indazole | 9.25 g | [N+](=O)([O-])C1=CC=C(CN2N=CC3=CC=CC=C23)C=C1 | C14H11N3O2
reactant | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium carbon | 1 g | [C].[Pd]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-(1H-indazol-1-ylmethyl)aniline | 6.77 g, 83% | N1(N=CC2=CC=CC=C12)CC1=CC=C(N)C=C1 | C14H13N3
